US04585767
Methyl 2-(4-allylthio-3-ethylazetidin-2-on-1-yl)acetate
To a vigorously stirred solution of 2.34 g of 4-allylthio-3-ethylazetidin-2-one in 20 ml of dimethylformamide were added 1.37 ml of methyl bromoacetate and 4.16 g of finely ground potassium carbonate. After 18 hours, the mixture was poured into 75 ml of water, was extracted into ethyl acetate (5×20 ml) and the combined organic extracts were washed with water (6×15 ml), dried over MgSO4 and evaporated in vacuo to dryness. Chromatography over silica gel, eluting with hexane-ethyl acetate mixtures, afforded the title compound as a yellow oil (3 g).

reactant | 4-allylthio-3-ethylazetidin-2-one | 2.34 g | C(C=C)SC1C(C(N1)=O)CC | C8H13NOS
reactant | methyl bromoacetate | 1.37 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | 75 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(4-allylthio-3-ethylazetidin-2-on-1-yl)acetate | 3 g | C(C=C)SC1C(C(N1CC(=O)OC)=O)CC | C11H17NO3S
